US06313122B1
C. 4-Acetylamino-2-amino-N-(4-methoxyphenyl)benzamide
To a stirred solution of N-(4-methoxyphenyl)-2,4-diaminobenzamide (19 g, 73.8 mmol) in N,N-dimethylformamide (250 mL) was added pyridine (6.6 mL, 81 mmol), followed by acetic anhydride (6.6 mL, 70 mmol). After stirring overnight, the solvents were removed in vacuo and the residue was chromatographed over a silica gel (10% tetrahydrofuran/90% chloroform). The appropriate fractions were combined and concentrated in vacuo to give 5.3 g (24%) of the title compound as an off-white solid.

reactant | N-(4-methoxyphenyl)-2,4-diaminobenzamide | 73.8 mmol, 19 g | COC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)N)N)=O | C14H15N3O2
reactant | pyridine | 81 mmol, 6.6 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 70 mmol, 6.6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 4-Acetylamino-2-amino-N-(4-methoxyphenyl)benzamide | 5.3 g, 24% | C(C)(=O)NC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1)N | C16H17N3O3
